US07855225B2
4.8 mg of indole-3-carboxylic acid was dissolved in 1 mL of tetrahydrofuran, 0.042 mL of n-butyllithium (1.58 M hexane solution) was added to the solution at 0° C., the resulting mixture was stirred for 30 minutes. Then 5.3 mg of benzenesulfonyl chloride was added to the mixture, and the resulting mixture was stirred at 0° C. overnight. Water and chloroform were added to the mixture, the organic layer was separated and concentrated under reduced pressure, and the residue was purified by HPLC to obtain 1.0 mg of 1-(phenylsulfonyl)-1H-indole-3-carboxylic acid.

reactant | indole-3-carboxylic acid | 4.8 mg | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | n-butyllithium | 1.58 M, 0.042 mL | C(CCC)[Li]
reactant | benzenesulfonyl chloride | 5.3 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(phenylsulfonyl)-1H-indole-3-carboxylic acid | 1.0 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(=O)O | C15H11NO4S
